US08026234B2
2-Fluoro-5-methoxy-4-nitrobenzoic acid:
To a solution of methyl-2,5-difluoro-4-nitrobenzoate (10 g, 46 mmol) in methanol (100 mL) was added potassium hydroxide (7.73 g, 184 mmol) in two batches. The reaction mixture was stirred in an oil bath at 80° C. for 1 h. It was then concentrated, acidified with HCl. Solid was filtered, washed with water and dried to give the product as light yellow powder (10 g, quantitative yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.95 (s, 3H) 7.66 (d, J=4 Hz, 1H) 8.01 (d, J=8 Hz, 1H). [M+H] calc'd for C8H6FNO5, 216. found 216.

reactant | methyl-2,5-difluoro-4-nitrobenzoate | 46 mmol, 10 g | COC(C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)=O | C8H5F2NO4
reactant | potassium hydroxide | 184 mmol, 7.73 g | [OH-].[K+]
reactant | methanol | 100 mL | CO | CH4O
product | 2-Fluoro-5-methoxy-4-nitrobenzoic acid | 10 g, quantitative yield | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
